US07786108B2
Step 9. Preparation of 7-Methyl-8-trifluoromethyl-1,2,3,4-tetrahydrobenzo[b]azepin-5-one
Heat a degassed mixture of isopropyl 7-methyl-5-oxo-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (6.68 g, 20.28 mmol) and sodium chloride (37.5 g) in water (7 mL) and dimethyl sulfoxide (180 mL) at reflux under nitrogen for 5 h. Dilute the cooled mixture with water (500 mL) and extract with ethyl acetate (2×300 mL). Wash the combined organic extracts with brine (200 mL), dry over anhydrous sodium sulfate and filter. Remove the solvents under reduced pressure and purify the residue by column chromatography on silica gel, eluting with ethyl acetate/hexanes (1:4), to afford the title compound as a yellow solid (3.94 g, 80%). ESI MS m/z 242 (M−H)−.

reactant | isopropyl 7-methyl-5-oxo-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 20.28 mmol, 6.68 g | CC1=CC2=C(N(CCCC2=O)C(=O)OC(C)C)C=C1C(F)(F)F | C16H18F3NO3
reactant | sodium chloride | 37.5 g | [Cl-].[Na+]
solvent | water | 7 mL | O | H2O
solvent | dimethyl sulfoxide | 180 mL | CS(=O)C | C2H6OS
solvent | water | 500 mL | O | H2O
product | 7-Methyl-8-trifluoromethyl-1,2,3,4-tetrahydrobenzo[b]azepin-5-one | 3.94 g, 80% | CC1=CC2=C(NCCCC2=O)C=C1C(F)(F)F | C12H12F3NO
